US09120805B2
Under nitrogen, a suspension of 145 mg (0.50 mmol) 3-(4-bromo-phenyl)-2H-pyrrolo[1,2-a]pyrazin-1-one, 177 mg (0.55 mmol) 1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole and 50 mg (0.60 mmol) sodium hydrogen carbonate in 1 ml DMF and 0.5 ml water is heated to 40° C. Then 7.0 mg (0.010 mmol) bis(triphenylphosphine)palladium(II)-chloride is added. The reaction mixture is heated to 80° C. and stirred at this temperature for 20 hours. The reaction mixture is cooled to room temperature and excess water is added. The resulting precipitate is filtered off and washed with water. The residue is chromatographed on a silica gel column with methanol/dichloromethane as eluent to give 3-(4-{1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-pyrazol-4-yl}-phenyl)-2H-pyrrolo[1,2-a]pyrazin-1-one as white powder; HPLC/MS 2.39 min (B), [M+H] 405;

reactant | 3-(4-bromo-phenyl)-2H-pyrrolo[1,2-a]pyrazin-1-one | 0.50 mmol, 145 mg | BrC1=CC=C(C=C1)C=1NC(C=2N(C1)C=CC2)=O | C13H9BrN2O
reactant | 1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 0.55 mmol, 177 mg | O1C(CCCC1)OCCN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C16H27BN2O4
reactant | sodium hydrogen carbonate | 0.60 mmol, 50 mg | C(O)([O-])=O.[Na+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 0.5 ml | O | H2O
product | 3-(4-{1-[2-(tetrahydro-pyran-2-yloxy)-ethyl]-1H-pyrazol-4-yl}-phenyl)-2H-pyrrolo[1,2-a]pyrazin-1-one | O1C(CCCC1)OCCN1N=CC(=C1)C1=CC=C(C=C1)C=1NC(C=2N(C1)C=CC2)=O | C23H24N4O3
